US06777418B2
A solution of 2-(1,3-dioxolane-2-yl)-3-[(thiophen-3-yl)hydroxymethyl]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene (1.31 g, 3.86 mmol) [prepared from 3-bromo-2-(1,3-dioxolane-2-yl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene and 3-thiophenecarboxaldehyde as previously described for the preparation of 2-(1,3-dioxolane-2-yl)-3-[(thiophene-2-yl)hydroxymethyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene] in 13 ml of anhydrous dichloromethane was cooled to 0° C. and Des-Martin periodinane (1.80 g, 4.25 mmol) was added over 3 minutes. The reaction was warmed to rt and stirred for 4 hours. The cloudy solution was diluted with 200 ml of dichloromethane and washed with sodium bicarbonate solution. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. This residue was then dissolved in 10 ml of tetrahydrofuran and stirred vigorously while adding 10 ml of an aqueous 1N HCl solution. Mixture was stirred for two hours and partitioned between ethyl acetate and water. The resulting organic layer was washed with brine, dried over magnesium sulfate and dried in vacuo. Chromatographic separation was achieved using a silica gel column eluting with a gradient starting with 2% ethyl acetate/hexanes to 8% ethyl acetate/hexanes to give 2-formyl-[3-((thiophen-3-yl)oxomethyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene (386 mg).

reactant | 2-(1,3-dioxolane-2-yl)-3-[(thiophen-3-yl)hydroxymethyl]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 3.86 mmol, 1.31 g | O1C(OCC1)C1=CC=2C(CCC(C2C=C1C(O)C1=CSC=C1)(C)C)(C)C | C22H28O3S
reactant | 3-bromo-2-(1,3-dioxolane-2-yl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1OCCO1 | C17H23BrO2
reactant | 3-thiophenecarboxaldehyde | S1C=C(C=C1)C=O | C5H4OS
reactant | 2-(1,3-dioxolane-2-yl)-3-[(thiophene-2-yl)hydroxymethyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | O1C(OCC1)C1=CC=2C(CCC(C2C=C1C(O)C=1SC=CC1)(C)C)(C)C | C22H28O3S
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-((thiophen-3-yl)oxomethyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 386 mg | S1C=C(C=C1)C(C=1C=CC=2C(CCC(C2C1)(C)C)(C)C)=O | C19H22OS
